US04144338
N,N-Dimethyl-N'-(2-diisopropylaminoethyl)-N' -(4,6-dimethyl-2-pyrimidinyl)urea
A mixture of 2-(2-diisopropylaminoethylamino)-4,6-dimethyl pyrimidine (17.0 g. 0.068 mole) and sodium hydride (50% in mineral oil) (4.19 g., 0.86 mole) in 175 ml. of dry toluene is stirred under nitrogen at 85°-95° C. for one half hour and then heated under reflux for one half hour. Dimethylcarbamoyl chloride (8.6 g., 0.08 mole) is added and heating under reflux is continued for twenty-four hours. The reaction is cooled and ethanol (10 ml) and sodium hydroxide (75 ml., 3.3N) are added. The aqueous layer is extracted with methylene chloride and the extracts are dried over sodium sulfate and concentrated to an oil. The oil is distilled at 0.5 mm of Hg and the product boiling at 155°-158° C. is collected.

reactant | 2-(2-diisopropylaminoethylamino)-4,6-dimethyl pyrimidine | 0.068 mole, 17.0 g | C(C)(C)N(CCNC1=NC(=CC(=N1)C)C)C(C)C | C14H26N4
reactant | sodium hydride | 0.86 mole, 4.19 g | [H-].[Na+]
reactant | Dimethylcarbamoyl chloride | 0.08 mole, 8.6 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | sodium hydroxide | 3.3N, 75 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-N'-(2-diisopropylaminoethyl)-N' -(4,6-dimethyl-2-pyrimidinyl)urea | CN(C(=O)N(C1=NC(=CC(=N1)C)C)CCN(C(C)C)C(C)C)C | C17H31N5O
